US05556864
2-(2-Phenylethyl)phenol
The whole of this 2-benzyloxystilbene was dissolved in 300 ml of ethanol, and the resulting solution was stirred at 60° C. for 3.5 hours in an atmosphere of hydrogen at atmospheric pressure and in the presence of 1.00 g of 5% w/w palladium-on-charcoal. The catalyst was removed by filtration, and the filtrate was concentrated by distillation under reduced pressure. The resulting residue was then purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 6.41 g (yield 89%) of the title compound as a colorless solid.

reactant | 2-benzyloxystilbene | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=CC=CC=C1 | C21H18O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2-(2-Phenylethyl)phenol | 6.41 g, yield 89% | C1(=CC=CC=C1)CCC1=C(C=CC=C1)O | C14H14O
